US08252935B2
a) 2-[5-(1-Methanesulfonyl-piperidin-3-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid ethyl ester
To a solution of compound 33b, 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester (833 mg, 1.86 mmol) in anhydrous CH2Cl2 (27 ml) was added methanesulfonyl chloride (0.95 ml, 12.2 mmol) and Triethylamine (2.34 ml, 16.3 mmol). The reaction stirred at room temperature for 2 hours, was diluted with dichlormethane and washed with sat. NaHCO3, and brine, dried and filtered to give a yellow oil. Purification by silica gel chromatography (Isco) gave the product as an off white solid, (662 mg, 68% ). Calcd for C27H34FNO4S (M+H) 525.62, Found 526.3

reactant | 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | 1.86 mmol, 833 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CNCCC1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H32F3NO2
reactant | methanesulfonyl chloride | 12.2 mmol, 0.95 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Triethylamine | 16.3 mmol, 2.34 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 27 ml | C(Cl)Cl | CH2Cl2
solvent | dichlormethane | ClCCl | CH2Cl2
product | 2-[5-(1-Methanesulfonyl-piperidin-3-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)S(=O)(=O)C)C1=CC=C(C=C1)C(F)(F)F)=O | C27H34F3NO4S
